US08049014B2
Step (4): Preparation of [3-(8-acetylaminoquinolin-4-yloxy)-4-methylphenyl]amine (Compound of Formula 10)
3-(8-Acetylaminoquinolin-4-yloxy)-4-methylphenyl-t-butylcarbamate (120 mg, 0.26 mmol) was dissolved in a 1:1 (by volume) mixture of dichloromethane and trifluoroacetic acid, which was then stirred at room temperature for one hour. When the reaction was completed, the resultant was neutralized with 1 M sodium hydroxide. The resultant was extracted with dichloromethane and water, and combined organic layers were dried with anhydrous sodium sulfate, and then filtered. After the solvent was removed by vacuum distillation, filtered a brown solid product to obtain 86 mg of the desired compound (yield 88.6%).

reactant | 3-(8-Acetylaminoquinolin-4-yloxy)-4-methylphenyl-t-butylcarbamate | 0.26 mmol, 120 mg | C(C)(=O)NC=1C=CC=C2C(=CC=NC12)OC=1C=C(C=CC1C)N(C([O-])=O)C(C)(C)C
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | [3-(8-acetylaminoquinolin-4-yloxy)-4-methylphenyl]amine | 86 mg, yield 88.6% | C(C)(=O)NC=1C=CC=C2C(=CC=NC12)OC=1C=C(C=CC1C)N | C18H17N3O2
